US07868014B2
(S)-6-[3-(2,4-Dichlorobenzylamino)-pyrrolidin-1-yl]-nicotinonitrile
Stir a mixture of (S)-(2,4-dichlorobenzyl)-pyrrolidin-3-ylamine (200 mg, 0.82 mmol), 6-chloronicotinonitrile (75 mg, 0.54 mmol) and diisopropylethylamine (140 μl, 0.82 mmol) in DMF (5 mL) at room temperature overnight. Concentrate and chromatograph on silica gel to give the title compound. Form the hydrochloride by essentially the procedure in Example 1 to give 1H NMR (300 MHz, MeOH-d4) δ 8.44 (1H, d, J=1.51 Hz), 7.95 (1H, dd, J=9.23, 2.07 Hz), 7.56-7.68 (2H, m), 7.40 (1H, dd, J=8.38, 2.17 Hz), 6.97 (1H, d, J=9.42 Hz), 4.42 (2H, d, J=3.01 Hz), 4.16-4.25 (1H, m), 4.04-4.13 (1H, m), 3.82-3.96 (2H, m), 3.63-3.77 (1H, m), 2.56-2.69 (1H, m), 2.43 (1H, m), MS (ES): 347 [M+].

reactant | (S)-(2,4-dichlorobenzyl)-pyrrolidin-3-ylamine | 0.82 mmol, 200 mg | ClC1=C(CN[C@@H]2CNCC2)C=CC(=C1)Cl | C11H14Cl2N2
reactant | 6-chloronicotinonitrile | 0.54 mmol, 75 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | diisopropylethylamine | 0.82 mmol, 140 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-6-[3-(2,4-Dichlorobenzylamino)-pyrrolidin-1-yl]-nicotinonitrile | ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C#N)C=C2)C=CC(=C1)Cl | C17H16Cl2N4
